US07932271B2
Methyl 3-[5-chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]propionate
In a mixed solvent of ethyl acetate (3 ml) and methanol (3 ml) was dissolved methyl(E)-3-[5-chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]acrylate (110 mg, 0.21 mmol). To the resulting solution was added 10% palladium-carbon catalyst (60 mg). Under a hydrogen atmosphere, the resulting mixture was stirred at room temperature for 2 hours. After the catalyst was removed by Celite filtration, the filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=4:1 eluate was concentrated under reduced pressure to give the title compound (94 mg, 0.18 mmol, 85%) as a white solid.

reactant | methyl(E)-3-[5-chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]acrylate | 0.21 mmol, 110 mg | ClC=1C(=CC(=NC1)/C=C/C(=O)OC)C(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C1=C(C=CC(=C1)F)F | C23H15ClF5NO4S
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium-carbon | 60 mg | [C].[Pd]
product | Methyl 3-[5-chloro-4-[(2,5-difluorophenyl)(4-trifluoromethylphenylsulfonyl)methyl]pyridin-2-yl]propionate | 0.18 mmol, 94 mg, 85% | ClC=1C(=CC(=NC1)CCC(=O)OC)C(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C1=C(C=CC(=C1)F)F | C23H17ClF5NO4S
